US07683176B2
To 3-{3-[5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridin-2-yl]-[1,2,4]triazol-4-yl}-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester (71 mg, 0.11 mmol) was added 1:1 mixture of TFA-CH2Cl2 (2 mL) at room temperature and stirred for 2 h. Solvents were evaporated, 1:1 mixture of CH3CN—H2O (5 mL) and lyophilized to obtain 4-chloro-N-{5-chloro-2-[4-(4-methoxy-pyrrolidin-3-yl)-4H-[1,2,4]triazol-3-yl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide as a white solid in quantitative yield. MS (ES) [M+H]+ expected 537.0, found 537.0.

reactant | 3-{3-[5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridin-2-yl]-[1,2,4]triazol-4-yl}-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.11 mmol, 71 mg | C(C)(C)(C)OC(=O)N1CC(C(C1)OC)N1C(=NN=C1)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C24H25Cl2F3N6O5S
reactant | TFA CH2Cl2 | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 4-chloro-N-{5-chloro-2-[4-(4-methoxy-pyrrolidin-3-yl)-4H-[1,2,4]triazol-3-yl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide | quantitative yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1=NN=CN1C1CNCC1OC)C(F)(F)F | C19H17Cl2F3N6O3S
